US04642373
trans-1-(3,5-Dimethoxyphenyl)-2-nitroethylene
A solution of 3,5-dimethoxybenzaldehyde (34.5 g., 0.208 mole) and nitromethane (12.69 g., 0.208 mole) in 40 ml. of MeOH was cooled to 0° under N2. A solution was prepared by dissolving NaOH (8.43 g., 0.211 mole) in 10 ml. of H2O then diluting to 20 ml. with ice-water. This solution was then added dropwise to the methanol mixture. After 15 minutes the reaction was diluted with ice-H2O and added slowly to a solution of 40 ml. concentrated HCl in 60 ml. H2O. The resulting precipitate (44 g.) was filtered and recrystallized from methanol to give 28.6 g. of product, m.p. 132°; reported, J. Org. Chem. 27, p. 376 (1962), m.p. 133.5-134.5.

reactant | 3,5-dimethoxybenzaldehyde | 0.208 mole, 34.5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | nitromethane | 0.208 mole, 12.69 g | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 0.211 mole, 8.43 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
solvent | methanol | CO | CH4O
product | trans-1-(3,5-Dimethoxyphenyl)-2-nitroethylene | COC=1C=C(C=C(C1)OC)\C=C\[N+](=O)[O-] | C10H11NO4
